US05403934
4-(4-Chlorophenyl)phenylpropan-2-one
To a stirred solution of 4-bromo-4'-chlorobiphenyl (16 g; F. R. Shaw and E. E. Turner. J. Chem. Soc., 285 (1932) ), isopropenyl acetate (9 g) and dichlorobis(tri-o-tolylphosphine)palladium (0.47 g) in dry toluene (30 ml), under nitrogen, was added tributyltin methoxide (25.9 ml; Aldrich). The mixture was stirred and heated at 100° for 5 hr, cooled and the solvent evaporated in vacuo. The residue was chromatographed on silica gel, eluting with cyclohexane then ether. The resultant solid was recrystallised from cyclohexane to afford the title compound (10 g), m.p. 79°-81°.

reactant | 4-bromo-4'-chlorobiphenyl | 16 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C12H8BrCl
reactant | isopropenyl acetate | 9 g | C(C)(=O)OC(=C)C | C5H8O2
reactant | tributyltin methoxide | 25.9 ml | C[O-].C(CCC)[Sn+](CCCC)CCCC
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | dichlorobis(tri-o-tolylphosphine)palladium | 0.47 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | 4-(4-Chlorophenyl)phenylpropan-2-one | 10 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)CC(C)=O | C15H13ClO
